US08426408B2
1-(2-(2,5-dichloropyrimidin-4-ylamino)phenyl)cyclobutanol
1-(2-Aminophenyl)cyclobutanol (56 mg, 0.343 mmol), 2,4,5-trichloropyrimidine (40 μl, 0.349 mmol) and N,N-diisopropylethylamine (120 μl, 0.694 mmol) were suspended in 2-propanol (1.5 mL) in a sealed tube, and the solution was heated to 85° C. for 4 hours. The reaction mixture was partitioned between H2O (15 mL) and CH2Cl2 (3×15 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated. The product was purified by flash chromatography (Analogix, 0 to 25% ethyl acetate-hexanes over 25 minutes, 4 g silica, 18 mL/minute) to give the title compound.

reactant | 1-(2-Aminophenyl)cyclobutanol | 0.343 mmol, 56 mg | NC1=C(C=CC=C1)C1(CCC1)O | C10H13NO
reactant | 2,4,5-trichloropyrimidine | 0.349 mmol, 40 μl | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | N,N-diisopropylethylamine | 0.694 mmol, 120 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-propanol | 1.5 mL | CC(C)O | C3H8O
product | 1-(2-(2,5-dichloropyrimidin-4-ylamino)phenyl)cyclobutanol | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)C1(CCC1)O)Cl | C14H13Cl2N3O
